US06869949B2
Y. (7R,8R,9R)-10-Acetyl-7-(2-methoxyethoxy)-2-methyl-9-phenyl-8-pivaloyloxy-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]naphthyridine
To a of −30° C. cooled solution of 7.40 g (17.6 mmol) (7R,8R,9R)-10-acetyl-7-hydroxy-2-methyl-9-phenyl-8-pivaloyloxy-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]naphthyridine in dichloromethane (25 ml) and N-methyl-pyrrolidinone (25 ml) is added 4.00 g (19.3 mmol) methoxyethyl triflate and 1.40 g (35.2 mmol) sodium hydride and it is stirred for further 2 h at this temperature. The reaction is quenched by adding of saturated aqueous ammonium chloride solution. Subsequently the mixture is extracted twice with dichloromethane. The combined organic layers are washed with brine, dried over sodium sulphate and evaporated in vacuo. The crude product is purified by column chromatography (ethyl acetate/cyclohexane/triethylamine: 5/4/1) to give 7.50 g (15.63 mmol/89%) of the title compound as a yellow amorphous solid. 1H-NMR (200 MHz,[D6] DMSO): δ=1.19 (s, 9H), 2.15 (s, 3H), 2.38 (s, 3H), 3.27 (s, 3H), 3.45-3.57 (m, 2H), 3.83-3.93 (m, 2H), 4.60 (d, 1H), 5.31 (t, 1H), 5.79 (d, 1H), 6.94 (s, 1H), 7,20 (s, 5H), 7.74 (s, 1H), 8.43 (d, 1H).

reactant | (7R,8R,9R)-10-acetyl-7-hydroxy-2-methyl-9-phenyl-8-pivaloyloxy-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]naphthyridine | 17.6 mmol, 7.40 g | C(C)(=O)N1[C@@H]([C@H]([C@@H](C=2C=CN3C(C12)=NC(=C3)C)O)OC(C(C)(C)C)=O)C3=CC=CC=C3 | C24H27N3O4
reactant | methoxyethyl triflate | 19.3 mmol, 4.00 g | O(S(=O)(=O)C(F)(F)F)CCOC | C4H7F3O4S
reactant | sodium hydride | 35.2 mmol, 1.40 g | [H-].[Na+]
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | N-methyl-pyrrolidinone | 25 ml | CN1C(CCC1)=O | C5H9NO
product | (7R,8R,9R)-10-Acetyl-7-(2-methoxyethoxy)-2-methyl-9-phenyl-8-pivaloyloxy-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]naphthyridine | C(C)(=O)N1[C@@H]([C@H]([C@@H](C=2C=CN3C(C12)=NC(=C3)C)OCCOC)OC(C(C)(C)C)=O)C3=CC=CC=C3 | C27H33N3O5
